US06642228B1
4-Naphthyl-1-(3-Piperidylpropyl)piperidine Hydrochloride
Using 4-(1-naphthyl)piperidine (149 mg, 0.60 mmol) and 1-(3-chloropropyl)piperidine hydrochloride (166 mg, 0.84 mmol) instead of 4-(3-indolyl)piperidine and 1-(3-chloropropyl)-3-(4-methoxyphenyl)piperidine hydrochloride respectively, reaction, extraction, and concentration were carried out in the same procedure as Example 2. The resulting crude product was purified by column chromatography on a silica gel (silica gel NH-DM 1020 produced by Fuji Silysia Chemical Ltd., eluent; hexane:ethyl acetate=2:1) to afford a free form (202 mg) of the title compound as a yellow viscous oil. After adding hydrochloric acid/methanol to a solution of the free form in methanol, the mixture was concentrated and was then recrystallized from methanol/ether to afford the title compound (85 mg, yield: 35%) as white crystals.

reactant | 4-(1-naphthyl)piperidine | 0.60 mmol, 149 mg | C1(=CC=CC2=CC=CC=C12)C1CCNCC1 | C15H17N
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 0.84 mmol, 166 mg | Cl.ClCCCN1CCCCC1
reactant | 1-(3-chloropropyl)-3-(4-methoxyphenyl)piperidine hydrochloride | Cl.ClCCCN1CC(CCC1)C1=CC=C(C=C1)OC
product | 4-Naphthyl-1-(3-Piperidylpropyl)piperidine Hydrochloride | 202 mg | Cl.C1(=CC=CC2=CC=CC=C12)C1CCN(CC1)CCCC1CNCCC1 | InChI=1S/C23H32N2.ClH/c1-2-10-22-20(8-1)9-3-11-23(22)21-12-16-25(17-13-21)15-5-7-19-6-4-14-24-18-19;/h1-3,8-11,19,21,24H,4-7,12-18H2;1H
